US06800629B2
In 30 mL of dimethyl sulfoxide was dissolved 10.0 g of 3,6-difluoro-2-pyrazinecarbonitrile. After adding 50 mL of allyl alcohol and 14.8 mL of triethylamine successively, the mixture thus obtained was stirred at 60° C. for 40 minutes. The reaction mixture was cooled to room temperature and poured into a mixture of 50 mL of toluene and 50 mL of water, and the organic layer was separated. The organic layer thus obtained was washed successively with ten 50 mL portions of water and then with saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=10:1] to obtain 11.5 g of 3-(allyloxy)-6-fluoro-2-pyrazinecarbonitrile as a light yellow-colored oily product.

reactant | 3,6-difluoro-2-pyrazinecarbonitrile | 10.0 g | FC=1C(=NC(=CN1)F)C#N | C5HF2N3
reactant | allyl alcohol | 50 mL | C(C=C)O | C3H6O
reactant | triethylamine | 14.8 mL | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 3-(allyloxy)-6-fluoro-2-pyrazinecarbonitrile | 11.5 g | C(C=C)OC=1C(=NC(=CN1)F)C#N | C8H6FN3O
